US06469021B1
A suspension of 3-chloromethyl-9-(2,5-dichlorobenzyl)-9H-β-carboline hydrochloride (5.64 g, 15 mmol) and sodium azide (2.0 9, 30 mmol) in anhydrous ethanol (60 mL) was refluxed under nitrogen for 15 hours. The resulting suspension was cooled to room temperature, diluted with an equal volume of CH2Cl2, and washed with water (2×50 mL) and brine (2.5 mL), respectively. The organic extract was dried over anhydrous Na2SO4 and concentrated to give 5.70 grams (100%) of 3-azidomethyl-9-(2,5-dichlorobenzyl)-9H-β-carboline as a pale yellow solid. 1H NMR (CDCl3) δ8.75 (s, 1H), 8.20 (d, J=7.4 Hz, 1H), 8.04 (s, 1H), 7.58 (t,J=7.5 Hz, 1H), 7.32-7.40 (m, 3H), 7.20 (dd, J=9.6, 2.5 Hz, 1H), 6.53 (d, J=2.3 Hz,1H), 5.52 (s, 2H), 4.20 (s, 2H); MS monoisotopic mass (calculated) 381.1, MH+ (observed) 382.0, (MH+−N2) 354.2.

reactant | 3-chloromethyl-9-(2,5-dichlorobenzyl)-9H-β-carboline hydrochloride | 15 mmol, 5.64 g | Cl.ClCC=1N=CC=2N(C3=CC=CC=C3C2C1)CC1=C(C=CC(=C1)Cl)Cl
reactant | sodium azide | 30 mmol | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-azidomethyl-9-(2,5-dichlorobenzyl)-9H-β-carboline | 5.70 grams, 100% | N(=[N+]=[N-])CC=1N=CC=2N(C3=CC=CC=C3C2C1)CC1=C(C=CC(=C1)Cl)Cl | C19H13Cl2N5
